US06426345B1
To a mixture of 4-(3-aminophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (150 mg) and triethylamine (0.1 ml) in dichloromethane (4 ml) was added methoxyglyoxyloyl chloride (0.05 ml). The mixture was stirred at room temperature for 20 minutes, then poured into a mixture of ethyl acetate and aqueous sodium bicarbonate. The organic phase was separated, washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The resultant solid was collected and washed with methanol to give 2-benzyl-4-[3-(methoxyglyoxyloylamino)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (163 mg).

reactant | 4-(3-aminophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 150 mg | NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2 | C20H16N4O
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | methoxyglyoxyloyl chloride | 0.05 ml | COC(C(=O)Cl)=O | C3H3ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzyl-4-[3-(methoxyglyoxyloylamino)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 163 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)N(C(C=O)=O)OC)N=CC=C2 | C23H18N4O4
